US04642308
The procedure is similar to that described in Example 1, but starting with 3-dimethylaminobenzoic acid (23.1 g), N,N'-carbonyldiimidazole (22.7 g) and 2-amino-7-phenoxy-1,8-naphthyridine (23.7 g). The product produced by precipitation in water (44 g; m.p. approximately 90° C.) is dissolved in boiling acetonitrile (1000 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with acetonitrile (3×50 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-dimethylaminobenzamide (32 g) is produced (m.p. 120° C.).

reactant | 3-dimethylaminobenzoic acid | 23.1 g | CN(C=1C=C(C(=O)O)C=CC1)C | C9H11NO2
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 23.7 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
reactant | acetonitrile | 1000 cc | C(C)#N | C2H3N
solvent | water | 44 g | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-3-dimethylaminobenzamide | 32 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)N(C)C)=O | C23H20N4O2
